US05374646
3-Bromo-2-(bromomethyl)benzonitrile
A mixture of NBS (3.45 g), dibenzoyl peroxide (100 mg) and 3-bromo-2-methylbenzonitrile (3.47 g) in carbon tetrachloride (40 ml) was heated at reflux under nitrogen for 48 h. The mixture was then cooled to room temperature, filtered and concentrated in vacuo to give a pale yellow solid. Chromatography eluting with dichloromethane gave the title compound as a white solid (4.23 g) m.p. 90°-93° C.

reactant | NBS | 3.45 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 3-bromo-2-methylbenzonitrile | 3.47 g | BrC=1C(=C(C#N)C=CC1)C | C8H6BrN
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-Bromo-2-(bromomethyl)benzonitrile | 4.23 g | BrC=1C(=C(C#N)C=CC1)CBr | C8H5Br2N
